US07943609B2
{[(2S)-2-Azido-2-tetrahydro-2H-pyran-4-ylethyl]oxy}(tert-butyl)dimethylsilane (2.19 g, 7.68 mmol) was dissolved in 25 mL of methanol and the solution was placed in a pressure bottle. Palladium on carbon (10%, 250 mg) was then added and the reaction mixture was shaken under H2 at 50 PSI (3.4×105 Pa). After 18 hours, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with methanol and the combined filtrates were concentrated under reduced pressure to give 1.94 g of (1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-tetrahydro-2H-pyran-4-ylethanamine as a colorless syrup.

reactant | {[(2S)-2-Azido-2-tetrahydro-2H-pyran-4-ylethyl]oxy}(tert-butyl)dimethylsilane | 7.68 mmol, 2.19 g | N(=[N+]=[N-])[C@H](CO[Si](C)(C)C(C)(C)C)C1CCOCC1 | C13H27N3O2Si
solvent | methanol | 25 mL | CO | CH4O
catalyst | Palladium on carbon | 250 mg | [Pd] | Pd
product | (1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-tetrahydro-2H-pyran-4-ylethanamine | 1.94 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](N)C1CCOCC1 | C13H29NO2Si
